US07319152B2
1-methyl-5-(1-oxo-2,3-dihydro-1H-inden-5-yl)-1H-pyrrole-2-carbonitrile
The title compound was prepared from 5-bromo-1-indanone and 1-methyl-2-cyanopyrrole according to the coupling procedure as described in example 1. MS (ESI) m/z 237; HRMS: calcd for C15H12N2O+H+, 237.1022; found (ESI, [M+H]+), 237.1003; Anal. Calcd for C15H12N2O: C, 76.25; H, 5.12; N, 11.86. Found: C, 75.99; H, 4.92; N, 11.80.

reactant | 5-bromo-1-indanone | BrC=1C=C2CCC(C2=CC1)=O | C9H7BrO
reactant | 1-methyl-2-cyanopyrrole | CN1C(=CC=C1)C#N | C6H6N2
product | 1-methyl-5-(1-oxo-2,3-dihydro-1H-inden-5-yl)-1H-pyrrole-2-carbonitrile | CN1C(=CC=C1C=1C=C2CCC(C2=CC1)=O)C#N | C15H12N2O
